US07256207B2
5-Fluoro-1H-indole-2,3-dione (956 mg, 5.79 mmol, 1 eq) was added as a solution in dry DMF to a stirred slurry of sodium hydride (278 mg, 11.6 mmol, 2 eq) in dry DMF drop wise over 15 minutes under an inert atmosphere with adequate pressure release to accommodate H2 evolution. The resulting mixture was stirred for 1 hour and p-methoxybenzyl chloride was added via syringe to the reaction. The solution was then stirred ca 2 hours and worked up by addition of water followed by extraction into ethyl acetate. The organic layer was washed twice with water and then dried over MgSO4. Column chromatography with ethyl acetate/hexane afforded 5-Fluoro-1-(4-methoxy-benzyl)-1H-indole-2,3-dione as a red solid (1.3 g, 80% yield). 1H NMR (CDCl3) δ (ppm): 7.3-7.24 (m, 3H), 7.20 (td, J=8.7, 2.7 Hz, 1H), 6.9-6.86 (m, 2H), 6.76 (dd, J=8.6, 3.6 Hz, 1H), 3.81 (s, 2H), 3.78 (s, 3H). LC/MS=286.1 (M+1).

reactant | 5-Fluoro-1H-indole-2,3-dione | 5.79 mmol, 956 mg, 1 eq | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydride | 11.6 mmol, 278 mg, 2 eq | [H-].[Na+]
reactant | p-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5-Fluoro-1-(4-methoxy-benzyl)-1H-indole-2,3-dione | 1.3 g, 80% yield | FC=1C=C2C(C(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)=O | C16H12FNO3
